US05550117
2,4-Dimethyl-11-ethyl-6-methylthio-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepin
To a solution of 5,11-dihydro-2,4-dimethyl-11-ethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-thione (0.2 g, 0.7 mmol) in dimethylformamide (10 mL) was added NaH (50% in mineral oil, 0.04 g, 0.8 mmol). The mixture was stirred under argon at 40° C. for 1 hr. After cooling to 30° C. methyl iodide (0.12 g, 0.8 mmol) was added, and the mix was stirred for 1 hr. The reaction was quenched with water, and the mixture was concentrated in vacuo. The residue was treated with ethyl acetate, washed, dried, and concentrated. Chromatography over silica gel (eluted with 20% EtOAc/Hex) gave 0.2 g of the title compound, m.p. 130°-132° C.

reactant | 5,11-dihydro-2,4-dimethyl-11-ethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-thione | 0.7 mmol, 0.2 g | CC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC=C3)=S)C | C15H16N4S
reactant | NaH | 0.8 mmol, 0.04 g | [H-].[Na+]
reactant | methyl iodide | 0.8 mmol, 0.12 g | CI | CH3I
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2,4-Dimethyl-11-ethyl-6-methylthio-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepin | 0.2 g | CC=1C=C(C=2N=C(C3=C(N(C2N1)CC)N=CC=C3)SC)C | C16H18N4S
